US04613609
α-Cyclopropyl-4-fluorobenzenemethanol
Add 3.2 g (0.085 mole) cyclopropyl-4-fluorobenzylmethanone to 80 ml of 3.2 g (0.085 mole) sodium borohydride partially dissolved in absolute ethanol, following the reaction by thin-layer chromatography. After about 6 hours at room temperature, cool the reaction in an ice bath and add acetic acid. Extract the mixture with methylene (3×60 ml) wash the methylene chloride extracts with saturated aqueous sodium bicarbonate solution, and dry over magnesium sulfate. Evaporate the methylene chloride extracts and dry in vacuo to yield the title compound.

reactant | cyclopropyl-4-fluorobenzylmethanone | 0.085 mole, 3.2 g | C1(CC1)C(=O)CC1=CC=C(C=C1)F | C11H11FO
reactant | sodium borohydride | 0.085 mole, 3.2 g | [BH4-].[Na+]
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | ethanol | C(C)O | C2H6O
product | α-Cyclopropyl-4-fluorobenzenemethanol | C1(CC1)C(O)C1=CC=C(C=C1)F | C10H11FO
